US05726306
To a solution of 2-amino-5-chloro-α-(2-chloro phenyl)benzyl alcohol (5.0 g) and 2,4-dimethoxy benzaldehyde (3.72 g) in acetic acid (50 ml) was added, under ice-cooling, sodium borohydride (0.94 g). The mixture was stirred for one hour at room temperature, which was poured into water (200 ml), followed by extraction with ethyl acetate (200 ml×2). The ethyl acetate layer was washed with 1N sodium hydroxide, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane:ethyl acetate=5:1) to give 5-chloro-α-(2-chlorophenyl)-2-(2,4-dimethoxybenzyl)aminobenzyl alcohol (7.5 g) as an oily product.

reactant | 2-amino-5-chloro-α-(2-chloro phenyl)benzyl alcohol | 5.0 g | NC1=C(C(C2=C(C=CC=C2)Cl)O)C=C(C=C1)Cl | C13H11Cl2NO
reactant | 2,4-dimethoxy benzaldehyde | 3.72 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | sodium borohydride | 0.94 g | [BH4-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-α-(2-chlorophenyl)-2-(2,4-dimethoxybenzyl)aminobenzyl alcohol | 7.5 g | ClC=1C=CC(=C(C(C2=C(C=CC=C2)Cl)O)C1)NCC1=C(C=C(C=C1)OC)OC | C22H21Cl2NO3
